US09216988B2
1-Bromo-2-methylpropane (10.1 g, 73 mmol) was added into a solution of (R)—N-(1-(4-bromophenyl)ethyl)(phenyl)methanesulfonamide (13 g, 36.7 mmol) and Cs2CO3 (23.8 g, 73 mmol) in DMF (150 mL) dropwise at 0° C. The mixture was then stirred at 80° C. for 20 h before it was cooled to ambient temperature. The mixture was filtered and the filtrate was concentrated in vacuo to remove the solvent. The residue was dissolved with DCM (100 mL) and washed with water (100 mL). The organic layer was dried over Na2SO4, filtered and concentrated in vacuo to give a residue which was purified on silica gel chromatography (petroleum ether: ethyl acetate=10:1) to provide (R)—N-(1-(4-bromophenyl)ethyl)-N-isobutyl(phenyl)methanesulfonamide (10.8 g, 72% yield) as colorless oil. 1H NMR (300 MHz, DMSO-d6) δ ppm 0.71 (d, 3H), 0.77 (d, 3H), 1.48 (d, 3H), 1.60-1.66 (m, 1H), 2.77-2.83 (m, 2H), 4.11-4.22 (m, 2H), 4.94-4.96 (m, 2H), 7.24-7.48 (m, 9H); >99% ee value (Chiral-HPLC, 214 nm).

reactant | 1-Bromo-2-methylpropane | 73 mmol, 10.1 g | BrCC(C)C | C4H9Br
reactant | (R)—N-(1-(4-bromophenyl)ethyl)(phenyl)methanesulfonamide | 36.7 mmol, 13 g | BrC1=CC=C(C=C1)[C@@H](C)NS(=O)(=O)CC1=CC=CC=C1 | C15H16BrNO2S
reactant | Cs2CO3 | 73 mmol, 23.8 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
product | (R)—N-(1-(4-bromophenyl)ethyl)-N-isobutyl(phenyl)methanesulfonamide | 10.8 g, 72% yield | BrC1=CC=C(C=C1)[C@@H](C)N(S(=O)(=O)CC1=CC=CC=C1)CC(C)C | C19H24BrNO2S
